US06376505B1
A. Preparation of 1′-methyl-(4,5-ethylenedioxy)spiro(isobenzofuran-1(3H),4′-piperidine)
Into a 100 ml round bottom flask fitted with a nitrogen inlet, condenser, and magnetic stirring bar containing 10.9 ml of anhydrous tetrahydrofuran at 0° was placed 1′-methyl-(4,5-ethylendioxy)spiro(isobenzofuran-1(3H),4′-piperidin)-3-one (1.124 g, 4.08 mmol). Borane tetrahydrofuran complex (1.0 M in tetrahydrofuran, 10.2 mmol) was added slowly via syringe. The mixture was heated to reflux for 72 hours and then cooled to 0°. 5N hydrochloric acid (4 ml) was then added via syringe before heating the mixture to reflux again for 5 hours. The solution was then concentrated in vacuo and partitioned between ethyl acetate and water. The aqueous layer was made basic with concentrated ammonium hydroxide and sodium chloride was added past point of saturation. The aqueous layer was extracted again with ethyl acetate (three times) and the combined organics were dried over sodium sulfate, filtered, and concentrated. The residue was taken up in 2% methanol:ammonium hydroxide and chromatographed (100:10:1 methylene chloride:methanol:ammonium hydroxide) to give 750 mg of subtitled product (70%) which was used directly in the next step.

reactant | 1′-methyl-(4,5-ethylendioxy)spiro(isobenzofuran-1(3H),4′-piperidin)-3-one | 4.08 mmol, 1.124 g | CN1CCC2(CC1)OC(C1=C3C(=CC=C12)OCCO3)=O | C15H17NO4
reactant | Borane tetrahydrofuran | 10.2 mmol, 1.0 M | O1CCCC1.B
reactant | hydrochloric acid | 5N, 4 ml | Cl | ClH
solvent | tetrahydrofuran | 10.9 ml | O1CCCC1 | C4H8O
product | 1′-methyl-(4,5-ethylenedioxy)spiro(isobenzofuran-1(3H),4′-piperidine) | 750 mg, 70% | CN1CCC2(CC1)OCC1=C3C(=CC=C12)OCCO3 | C15H19NO3
